US04220795
B-1 Preparation of Oct-7-en-1-ol
A mixture containing 1.7 liter of anhydrous tetrahydrofuran (distilled from sodium/benzophenone ketyl) and 600 g (5.4 mol) of distilled 1,7-octadiene (Aldrich Chemical Co. Inc.) was prepared under nitrogen. Borane in tetrahydrofuran (1 M, 600 ml, 0.60 mol) was added dropwise to the mixture over a 1.0 hr period while the mixture was maintained at 25° C. The resultant solution was stirred for 1 hr at room temperature and then 25 ml of water was added thereto followed by 300 ml of 3 M sodium hydroxide. These additions were followed by 300 ml of 30% aqueous hydrogen peroxide while maintaining the mixture at 30° to 40° C. The mixture was stirred for 15 min and the phases which formed were separated. The aqueous phase was extracted 3 times with an equal volume of pentane. The combined pentane extracts were washed with 200 ml of 10% aqueous sodium bisulfite, then with saturated aqueous sodium chloride and then dried over magnesium sulfate. The mixture was filtered and the filtrate was evaporated and distilled to yield the title compound (bp 62°-64° C., 20 mm) as a colorless oil having the following physical characteristics:

reactant | 1,7-octadiene | 5.4 mol, 600 g | C=CCCCCC=C | C8H14
reactant | Borane | B | BH3
reactant | sodium hydroxide | 3 M, 300 ml | [OH-].[Na+]
reactant | hydrogen peroxide | 300 ml | OO | H2O2
solvent | water | 25 ml | O | H2O
solvent | tetrahydrofuran | 1.7 liter | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.60 mol, 1 M, 600 ml | O1CCCC1 | C4H8O
product | Oct-7-en-1-ol | C(CCCCCC=C)O | C8H16O
